US09169248B2
Synthesis of 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-N-[1-(4-fluorophenyl)pyrazol-4-yl]acetamide
To a mixture of 2-[4-chloro-3-methyl-5-(trifluoromethyl)pyrazol-1-yl]acetic acid (0.150 g, 0.62 mmol) in CH2Cl2 (2 mL) was added oxalyl chloride (0.15 mL, 1.75 mmol) and DMF (1 drop). The mixture was stirred for 30 min at room temperature and was then concentrated in vacuo. The solid obtained was transferred to another flask containing 1-(4-fluorophenyl)pyrazol-4-amine (0.080 g, 0.45 mmol) and NEt3 (0.25 mL, 1.8 mmol) in CH2Cl2 (3 mL). The mixture was stirred for 30 min at room temperature, treated with water (50 mL), and extracted with ethyl acetate (50 mL). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by flash chromatography (SiO2, 0-50% EtOAc/hexanes gradient elution) to give the title compound as a white solid (0.084 g, 47%). 1H NMR (400 MHz CDCl3) δ 8.40 (s, 1H), 7.71 (s, 1H), 7.69 (m, 2H), 7.19 (dd, J=8.4, 8.4 Hz, 2H), 5.07 (s, 2H), 2.34 (s, 3H); MS: (ES) m/z calculated for C16H12ClF4N5O [M+H]+ 402.0, found 402.0.

reactant | 2-[4-chloro-3-methyl-5-(trifluoromethyl)pyrazol-1-yl]acetic acid | 0.62 mmol, 0.150 g | ClC=1C(=NN(C1C(F)(F)F)CC(=O)O)C | C7H6ClF3N2O2
reactant | oxalyl chloride | 1.75 mmol, 0.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(4-fluorophenyl)pyrazol-4-amine | 0.45 mmol, 0.080 g | FC1=CC=C(C=C1)N1N=CC(=C1)N | C9H8FN3
reactant | NEt3 | 1.8 mmol, 0.25 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-N-[1-(4-fluorophenyl)pyrazol-4-yl]acetamide | 0.084 g, 47% | ClC=1C(=NN(C1C)CC(=O)NC=1C=NN(C1)C1=CC=C(C=C1)F)C(F)(F)F | C16H12ClF4N5O
